* File: G2_AOI21_N1.pex.netlist
* Created: Wed Feb 23 15:28:20 2022
* Program "Calibre xRC"
* Version "v2021.2_37.20"
* 
.include "G2_AOI21_N1.pex.netlist.pex"
.subckt G2_AOI21_N1  VSS VDD B A Z C
* 
* C	C
* Z	Z
* A	A
* B	B
* VDD	VDD
* VSS	VSS
XI1.X0 N_Z_XI1.X0_D N_VDD_XI1.X0_PGD N_B_XI1.X0_CG N_C_XI1.X0_PGS N_VSS_XI1.X0_S
+ TIGFET1
XI6.X0 N_Z_XI6.X0_D N_VSS_XI6.X0_PGD N_B_XI6.X0_CG N_A_XI6.X0_PGS N_VDD_XI6.X0_S
+ TIGFET1
XI5.X0 N_Z_XI1.X0_D N_VDD_XI5.X0_PGD N_C_XI5.X0_CG N_VDD_XI5.X0_PGS
+ N_VSS_XI5.X0_S TIGFET1
XI7.X0 N_Z_XI6.X0_D N_VSS_XI7.X0_PGD N_C_XI7.X0_CG N_VSS_XI7.X0_PGS
+ N_VDD_XI7.X0_S TIGFET1
*
.include "G2_AOI21_N1.pex.netlist.G2_AOI21_N1.pxi"
*
.ends
*
*
